US04962103
(2R,4R)-1-Benzyloxycarbonyl-2-(3-t-butoxycarbonylmethylidenepropyl)-4-t-butyldimethylsilyloxypyrrolidine (1.17 g) was dissolved in 24 ml of ethanol, and 350 mg of 5% palladium carbon was added thereto, followed by hydrogenation at room temperature under 1 atm for 3 hours. The catalyst was removed by filtration, and the filtrate was distilled to obtain (2R,4R)-2-(4-t-butoxycarbonylbutyl)-4-t-butyldimethylsilyloxypyrrolidine.

reactant | (2R,4R)-1-Benzyloxycarbonyl-2-(3-t-butoxycarbonylmethylidenepropyl)-4-t-butyldimethylsilyloxypyrrolidine | 1.17 g | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)CCC=CC(=O)OC(C)(C)C | C27H43NO5Si
solvent | ethanol | 24 ml | C(C)O | C2H6O
catalyst | palladium carbon | 350 mg | [C].[Pd]
product | (2R,4R)-2-(4-t-butoxycarbonylbutyl)-4-t-butyldimethylsilyloxypyrrolidine | C(C)(C)(C)OC(=O)CCCC[C@H]1NC[C@@H](C1)O[Si](C)(C)C(C)(C)C | C19H39NO3Si
